US04291168
A solution of 50% sodium hydroxide (2.5 g.) in 50 ml. of abs. ethanol is added to a suspension of ethyl [6,7-dichloro-1-oxo-2-phenyl-2-(3-(trimethylsilyl)-2-propynyl)-5-indanyloxy]acetate (3.08 g., 6.3 mmol) in 100 ml. of abs. ethanol under an argon atmosphere. The mixture stirred at room temperature for a period of 5 hr. (excluding light) and mixed with water provides a clear yellow solution which is first extracted with ether and then acidified with dilute hydrochloric acid. The acidified solution is extracted with 1:1 ether-ethyl acetate which, after washing with brine and drying over magnesium sulfate, is concentrated under reduced pressure to afford 2.22 g. (91% yield) of (6,7-dichloro-1-oxo-2-phenyl-2-propargyl-5-indanyloxy)acetic acid as a tan solid, m.p. 238.5°-241.5° (corr.). Crystallization from isopropanol affords the indanyloxyacetic acid product as white needles, m.p. 237.5°-240° (corr.). This material is solvated with 0.17 mole of isopropanol, according to NMR analysis, and has the following elemental analysis.

reactant | sodium hydroxide | 2.5 g | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | ethyl [6,7-dichloro-1-oxo-2-phenyl-2-(3-(trimethylsilyl)-2-propynyl)-5-indanyloxy]acetate | 6.3 mmol, 3.08 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(CC#C[Si](C)(C)C)C1=CC=CC=C1)OCC(=O)OCC | C25H26Cl2O4Si
solvent | water | O | H2O
product | (6,7-dichloro-1-oxo-2-phenyl-2-propargyl-5-indanyloxy)acetic acid | 91% yield | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(CC#C)C1=CC=CC=C1)OCC(=O)O | C20H14Cl2O4
